US07098212B2
[2-(4-fluoro-benzylamino)-ethyl]-carbamic acid tert-butyl ester
(2-Amino-ethyl)-carbamic acid tert-butyl ester (5.95 g, 37.1 mmol), 4-fluorobenzaldehyde (5.07 g, 40.9 mmol, 4.4 mL), triethylamine (1.50 g, 14.9 mmol, 2.1 mL) and magnesium sulfate (6.71 g, 55.7 mmol) were stirred in methanol (50 mL). After 1.5 h the solution was cooled to 0° C. and sodium borohydride (8.4 g, 223 mmol) was added in portions. After 2 h the reaction was quenched with water and extracted three times with ethyl acetate. The combined organic layers were washed three times with water and the desired product extracted into the aqueous layer with 0.5 M hydrochloric acid (4×50 mL). The combined acid wash was cooled to 0° C. and basified with saturated aqueous ammonium hydroxide. The aqueous layer was extracted three times with chloroform and the combined chloroform layer washed three times with water, dried over sodium sulfate and concentrated to yield the title compound as a colorless oil (7.49 g).

reactant | (2-Amino-ethyl)-carbamic acid tert-butyl ester | 37.1 mmol, 5.95 g | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
reactant | 4-fluorobenzaldehyde | 40.9 mmol, 4.4 mL, 5.07 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | triethylamine | 14.9 mmol, 2.1 mL, 1.50 g | C(C)N(CC)CC | C6H15N
reactant | magnesium sulfate | 55.7 mmol, 6.71 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium borohydride | 223 mmol, 8.4 g | [BH4-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | [2-(4-fluoro-benzylamino)-ethyl]-carbamic acid tert-butyl ester | 7.49 g | C(C)(C)(C)OC(NCCNCC1=CC=C(C=C1)F)=O | C14H21FN2O2
